US05891909
a) 5-Methyl-3-(phenylmethylsulfonyloxy)phenol
To a solution of 2.0 g (16.1 mmol) of orcinol in diethyl ether (100 mL) containing 10 mL of N,N-diisopropylethylamine was added in a slow steady stream 3.05 g (16 mmol) of α-toluenesulfonyl chloride in a solution of 1:1 diethyl ether/dichloromethane (ca. 30 mL). The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was quenched with 10% hydrochloric acid, extracted into diethyl ether, dried (MgSO4), and purified by flash chromatography (dichloromethane/diethyl ether (100:0 to 95:5 to 90:10)) to give 848 mg of the title compound as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ 7.37-7.48 (m, 5H), 6.56-6.57 (m, 1H), 6.51-6.52 (m, 1H), 6.43 (t, 1H, J=2 Hz), 5.21 (s, 1H), 4.50 (s, 2H), 2.26 (s, 3H).

reactant | orcinol | 16.1 mmol, 2.0 g | C1(=CC(O)=CC(C)=C1)O | C7H8O2
reactant | N,N-diisopropylethylamine | 10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | α-toluenesulfonyl chloride | 16 mmol, 3.05 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | diethyl ether dichloromethane | ca. 30 mL | C(C)OCC.ClCCl
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-Methyl-3-(phenylmethylsulfonyloxy)phenol | 848 mg | CC=1C=C(C=C(C1)O)OS(=O)(=O)CC1=CC=CC=C1 | C14H14O4S
